US05965743
4.9 g of 4-(3-phenylpropyloxy)benzaldehyde were dissolved in 30 ml of ethanol, and 0.39 g of sodium borohydride were added to the resultant solution, then the solution was stirred for 1 hour at room temperature. After completed the reaction, the solvent used was distillated under reduced pressure, and the residue obtained was dissolved in a mixture of ethyl acetate and dilute hydrochloric acid. After washing the ethyl acetate layer with dilute hydrochloric acid, dilute alkaline aqueous solution and water in series, the organic layer was then dried with anhydrous magnesium sulfate, and the solvent used was distillated under reduced pressure, thereby affording 4.1 g of 4-(3-phenylpropyloxy)benzyl alcohol.

reactant | 4-(3-phenylpropyloxy)benzaldehyde | 4.9 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=O)C=C1 | C16H16O2
reactant | sodium borohydride | 0.39 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | 4-(3-phenylpropyloxy)benzyl alcohol | 4.1 g | C1(=CC=CC=C1)CCCOC1=CC=C(CO)C=C1 | C16H18O2
